datasets/RMG-dataset.csv
rxn,Ea
[C:3]([H:4])([H:5])[H:6].[S:0]([H:1])[H:2]>>[H:1][C:3]([H:4])([H:5])[H:6].[S:0][H:2],2.5104
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[Cl:8]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][Cl:8],-0.972793
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])[H:15])([H:13])[H:14])([O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([H:13])([H:14])[C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:15])[O:7]1)([H:9])([H:10])[H:11].[O:8][H:19],64.49636
[C:0]([C:1]([C:2](=[O:3])[H:12])([C:4]([C:5]([O:6][O:7][H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2](=[O:3])[H:12])([C:4]([C:5]([O:6])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[O:7][H:17],175.728
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[O:8]([O:9][H:11])[H:10]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:10])([H:3])[H:4].[O:8][O:9][H:11],-16.8615
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[S:12][H:19])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:10]([C:9]([H:13])([H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[S:12][H:19],20.0832
[O:0][H:1].[O:2][C:3](=[O:4])[H:5]>>[O:0]([H:1])[O:2][C:3](=[O:4])[H:5],0.0
[C:0](=[C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[C:17](=[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])[H:24])([H:22])[H:23]>>[C:0](=[C:1][C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[C:19]([C:18](=[C:17]([H:22])[H:23])[H:24])([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])([H:9])[H:10],59.3291
[N-:0]=[N+:1]([N:2]([H:4])[H:5])[H:3]>>[N:0]#[N:1].[N:2]([H:3])([H:4])[H:5],48.2
[C:0]([C:1]([C:2](=[O:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([O:12])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2]=[O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][O:12][C:11]([C:10]([H:13])([H:14])[H:15])([H:16])[H:17],13.8072
[C:0]([O:1][C:2]([C:3]([O:4][C:5]([C:6]([H:15])([H:16])[H:17])=[O:7])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([O:1][C:2](=[C:3]([H:13])[H:14])[H:12])([H:8])([H:9])[H:10].[O:4]=[C:5]([C:6]([H:15])([H:16])[H:17])[O:7][H:11],203.3424
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5](=[S:6])([H:7])[H:8]>>[C:0](#[C:1][C:2](=[S:3])[H:7])[H:4].[C:5](=[S:6])[H:8],71.128
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20],43.5136
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[S:9]([c:10]1[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]1[H:21])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:16])[H:4].[S:9][c:10]1[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]1[H:21],10.0416
[c:0]1([H:6])[c:1]([H:7])[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]1[H:11]>>[H:6].[c:0]1[c:1]([H:7])[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]1[H:11],449.48
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[c:6]1([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]1[H:17]>>[C:0](=[C:1]([S:2][H:5])[H:12])([H:3])[H:4].[c:6]1[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]1[H:17],42.2584
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[H:18]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])[H:10])[H:8])([H:6])[H:7].[H:9][H:18],-7.9496
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])[H:5].[H:4][C:10]([H:11])([H:12])[H:13],95.3952
[C:0]([C:1]([C:2]([O:3][O:4][H:11])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[O:12][O:13]>>[C:0]([C:1]([C:2]([O:3][O:4][H:11])([H:9])[H:10])([H:7])[H:8])([H:5])([H:6])[O:12][O:13],0.8313608
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[C:22]([C:23]([H:26])([H:27])[H:28])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])[C:22]([C:23]([H:26])([H:27])[H:28])([H:24])[H:25])([H:10])([H:11])[H:12],25.6061
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([H:16])([H:17])[H:18]>>[C:0]([c:1]1[c:2]([H:10])[c:3][c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:11][C:15]([H:16])([H:17])[H:18],60.203576
